US07674789B2
1b) 5-(Aminomethyl)-6-chloro-N-(2,6-difluorophenyl)-2-(methylthio)-4-pyrimidinamine
To the solution of 4-chloro-6-[(2,6-difluorophenyl)amino]-2-(methylthio)-5-pyrimidinecarbonitrile (0.938 g) was added borane.THF complex (1.0 M, 15 mL). The reaction mixture was then heated at reflux for about 4 h until all the starting material disappeared. The solution was cooled to r.t., mixed with HCl solution (6 M, 5 mL), and stirred at room temperature for about 30 minutes. The solution was then mixed with NaOH solution (3 M) to pH 9.0-10.0. The organic phase was separated and the aqueous layer was extracted with EtOAc (3×30 mL). The combined organic layers were washed with brine (50 mL), collected, dried over Na2SO4 and concentrated to afford the title compound 0.97 g (quantative). LC-MS m/z 317 (M+H)+, 1.5 min (ret. time).

reactant | 4-chloro-6-[(2,6-difluorophenyl)amino]-2-(methylthio)-5-pyrimidinecarbonitrile | 0.938 g | ClC1=NC(=NC(=C1C#N)NC1=C(C=CC=C1F)F)SC | C12H7ClF2N4S
reactant | borane | B | BH3
reactant | HCl | 6 M, 5 mL | Cl | ClH
reactant | NaOH | 3 M | [OH-].[Na+]
product | 5-(Aminomethyl)-6-chloro-N-(2,6-difluorophenyl)-2-(methylthio)-4-pyrimidinamine | 0.97 g | NCC=1C(=NC(=NC1Cl)SC)NC1=C(C=CC=C1F)F | C12H11ClF2N4S
